US08865748B2
Preparation of {[5-(3-fluorophenyl)-3-hydroxypyridine-2-carbonyl]amino}acetic acid (6):
To a slurry of {[5-(3-fluorophenyl)-3-hydroxypyridine-2-carbonyl]amino}acetic acid ethyl ester, 5, (226 g, 0.71 mol) in THF (1 L) at room temperature was added an aqueous solution of sodium hydroxide (1 M, 2 L) while maintaining the internal reaction temperature below 25° C. The progress of the reaction was monitored by TLC. After 20-30 minutes, the reaction was completed. The pH of the reaction solution was adjusted using concentrated HCl to 5-5.5 while maintaining the internal temperature below 25° C. The reaction mixture was filtered to remove insoluble matter and the filtrate was concentrated by rotary evaporation at up to 40° C. bath temperature until all THF was removed. The resulting solid was collected by vacuum filtration and washed with water (1 L). The solid was then dissolved in a mixture of water (1.5 L) and THF (1.5 L) at room temperature. The pH was adjusted from approximately 5 to approximately 2-2.25 with concentrated HCl. The resulting mixture was stirred for 30 minutes, after which time the pH was confirmed in the range of 2-2.5. The biphasic mixture was concentrated by rotary evaporation at up to 40° C. bath temperature until the removal of THF ceased. The resulting solid was filtered, washed with water (2×1 L), and dried to afford 115 g (55.8% yield) of the desired product as a white solid. MP: 182-184° C.; MS (ESI−): m/z 289 (M−1); 1H NMR (300 MHz, DMSO-d6) δ 12.90 (s, 1H), 12.38 (s, 1H), 9.39-9.37 (t, J=6.3 Hz, 1H), 8.55 (s, 1H), 7.80-7.67 (m, 2H), 7.59-7.52 (m, 1H), 7.34-7.27 (m, 1H), 4.02-3.99 (m, 2H), 3.51 (s, 1H).

reactant | {[5-(3-fluorophenyl)-3-hydroxypyridine-2-carbonyl]amino}acetic acid ethyl ester | C(C)OC(CNC(=O)C1=NC=C(C=C1O)C1=CC(=CC=C1)F)=O | C16H15FN2O4
reactant | sodium hydroxide | 1 M, 2 L | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | {[5-(3-fluorophenyl)-3-hydroxypyridine-2-carbonyl]amino}acetic acid | 115 g, 55.8% yield | FC=1C=C(C=CC1)C=1C=C(C(=NC1)C(=O)NCC(=O)O)O | C14H11FN2O4
